US08252931B2
The title B compound, 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid (7.5 g, 28.5 mmol) is dissolved in 25 mL of thionyl chloride and a drop of DMF and the mixture stirred at RT for 5-6 h. The excess of thionyl chloride is removed under reduced pressure. The residue is then taken up in DCM and added dropwise to a solution of the title E compound in Example 1, 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine (5.2 g, 28.5 mmol) in 25 mL of pyridine. The reaction mixture is stirred for 5 h before being evaporated to remove the pyridine. The residue is partitioned between ethyl acetate and brine, extracted with ethyl acetate. The combined organic layers are washed with saturated sodium bicarbonate, brine, dried over anhydrous magnesium sulfate, filtered and then reduced to an orange-brown solid. This is then vacuum dried to afford 3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-2-(4-nitro-phenyl)-propionamide as a foam: 1H NMR (400 MHz, CDCl3) δ 1.0-1.1 (m, 2H), 1.4-1.8 (m, 5H), 1.8-1.9 (m, 2H), 2.1-2.25 (m, 2H), 3.6 (t, 1H, J=7.8), 4.01 (s, 3H), 6.8 (d, 1H, J=8.8), 7.4 (d, 2H, J=8.6), 7.8 (d, 1H, J=8.8 Hz), 8.19 (d, 2H, J=8.6 Hz), 9.3 (s, 1H); LC/MS 427 (M+1).

reactant | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid | 28.5 mmol, 7.5 g | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H17NO4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine | 28.5 mmol, 5.2 g | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
solvent | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-cyclopentyl-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-2-(4-nitro-phenyl)-propionamide | C1(CCCC1)CC(C(=O)NC=1SC2=NC(=CC=C2N1)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C21H22N4O4S
